US04327214
A mixture of 144 g (1 mole) of 2-naphthol, 600 ml of diethyl ketone, 275 g (2 moles) of potassium carbonate and 850 g (4.5 moles) of 1,2-dibromoethane is refluxed for 48 hours. Diethyl ketone and excess dibromoethane are then distilled off under reduced pressure and the residue is taken up in 500 ml of methylene chloride and 200 ml of 10% strength sodium hydroxide solution. After the aqueous phase has been separated off, the organic layer is washed with 100 ml of water, dried over sodium sulfate and concentrated under reduced pressure. The solid residue is stirred with 100 ml of n-pentane for 10 minutes at -5° C., filtered and washed with 50 ml of cold pentane. There is obtained 195 g (78% of theory) of pure 1-bromo-2-(2-naphthyloxy)-ethane; m.p.: 93°-95° C.

reactant | 2-naphthol | 1 mole, 144 g | C1=C(C=CC2=CC=CC=C12)O | C10H8O
reactant | potassium carbonate | 2 moles, 275 g | C([O-])([O-])=O.[K+].[K+]
reactant | 1,2-dibromoethane | 4.5 moles, 850 g | BrCCBr | C2H4Br2
solvent | diethyl ketone | 600 ml | C(C)C(=O)CC | C5H10O
product | 1-bromo-2-(2-naphthyloxy)-ethane | 195 g, 78% | BrCCOC1=CC2=CC=CC=C2C=C1 | C12H11BrO
